* C:\Users\Vincent.Volpone\OneDrive - Gentex Corporation\Desktop\HOME\Electronics\High_Voltage_DC_Motor_Drive\Testing_Current_Sense.asc
* Generated by LTspice 26.0.1 for Windows.
R1 N003 N004 15K
C1 N004 0 0.005µ
X§U1 N001 in+ in- N006 N002 N002 N003 0 TMCS1126x7A MODE=0 ;§pnba VREF)IN+)IN-)OC)VS)VOC)VOUT)GND
V1 N001 0 2.5
V2 N002 0 5v
V4 in+ 0 SINE(85 85 120)
LA1 0 N005 50µH Rser=0
RA1 N005 in- 5
.tran 5000ms
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\Vincent.Volpone\OneDrive - Gentex Corporation\Desktop\HOME\Electronics\High_Voltage_DC_Motor_Drive\TMCS1126x7A.asy)
.lib TMCS1126x7A.lib
.backanno
.end
